US05017734
The aluminum bromide catalyzed reaction of 1-bromodiamantane (see Gund, T.M.; Schleyer, P.v.R. Tetrahedron Lett. 1971, 1583) with vinyl bromide in methylene chloride followed by dehydrohalogenation of the adduct with potassium t-butoxide in DMSO gave a mixture of five components. This mixture was separated by column chromatography and components were identified as diamantane (5%), 1-(2-bromovinyl)diamantane (8%), 1-ethynyldiamantane (50%), 4-(2-bromovinyl)-9-ethynyldiamantane (9%), and 4,9-diethynyl-diamantane (30%). The formation of 2-bromovinyl compounds results from incomplete dehydrohalogenation, and indicates that the elimination is slower than that observed for the adamantane system. The presence of diamantane and 4,9-diethynyl derivatives indicates the facile disproportionation chemistry in this system. In 1-ethynyldiamantane the ethynyl group is on the girdle, whereas in the case of the 4,9- disubstituted derivative, the ethynyl groups are on the epical positions. Although reaction condition were not found to give pure 1-ethynyldiamantane (similar difficulty was encountered with 1-ethynyladamantane), yields were improved to greater than 55% by the use of ferric chloride as the catalyst and hexane/methylene chloride as the solvent.

reactant | adamantane | C12CC3CC(CC(C1)C3)C2 | C10H16
reactant | diamantane | C1C2CC3C4C1C5CC(C4)CC3C5C2 | C14H20
product | 1-ethynyladamantane | C(#C)C12CC3CC(CC(C1)C3)C2 | C12H16
